US05889002
6-Chloro-3-(4-phenylbutyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and 4-phenylbutyl isothiocyanate by a procedure analogous to the procedure described in example 3Bc-d; mp 201°-205° C.; 1H-NMR (DMSO-d6): δ 1.55 (m, 4H), 2.6 (t, 2H), 3.2 (q, 2H), 7.04 (s, 1H), 7.1-7.4 (m, 6H), 10.94 (br. s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | 4-phenylbutyl isothiocyanate | C1(=CC=CC=C1)CCCCN=C=S | C11H13NS
product | 6-Chloro-3-(4-phenylbutyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NCCCCC1=CC=CC=C1 | C15H16ClN3O2S2
